US04051254
3-methyl-4-(carbethoxyamino)phenyl N-methylcarbamate
The reaction of 3-methyl-4-aminophenyl N-methylcarbamate (3.6g., 0.02 mole) with ethyl chloroformate (2.28g., 0.021 mole) and triethylamine (2.23g., 0.022 mole) yielded a beige solid (3.6g., m.p. 153°-55° C. from ethanol/water).

reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.02 mole, 3.6g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | ethyl chloroformate | 0.021 mole, 2.28g | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.022 mole, 2.23g | C(C)N(CC)CC | C6H15N
solvent | ethanol water | C(C)O.O
product | 3-methyl-4-(carbethoxyamino)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)NC(=O)OCC)C)=O | C12H16N2O4
